US06166033
6.21 g of 1-(4-phenyl-4-trimethylsilyloxy-3-buten-1-yl)-4-(4-fluorobenzylidene)piperidine was dissolved in 30 ml of tetrahydrofuran, and 2.83 g of N-bromosuccinimide was added in small portions to the thus prepared solution which was cooled at -50° C. The reaction mixture was further stirred at -50° C. for 1 hour and gradually warmed to -20° C., and then thereto was added saturated aqueous sodium bicarbonate and chloroform, subsequently separating the organic layer. The aqueous layer was further extracted with chloroform, and the organic layers were combined and washed with water. After drying over anhydrous magnesium sulfate, the drying agent was removed by filtration, and 8 ml of 4 N hydrogen chloride dioxane solution was added to the resulting filtrate which was cooled in an ice bath. The solvent was evaporated under reduced pressure, and the resulting residue was crystallixed from ether to obtain 6.00 g of 1-(3-bromo-4-phenyl-4-oxobutyl)-4-(4-fluorobenzylidene)piperidine hydrochloride.

reactant | 1-(4-phenyl-4-trimethylsilyloxy-3-buten-1-yl)-4-(4-fluorobenzylidene)piperidine | 6.21 g | C1(=CC=CC=C1)C(=CCCN1CCC(CC1)=CC1=CC=C(C=C1)F)O[Si](C)(C)C | C25H32FNOSi
reactant | N-bromosuccinimide | 2.83 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(3-bromo-4-phenyl-4-oxobutyl)-4-(4-fluorobenzylidene)piperidine hydrochloride | 6.00 g | Cl.BrC(CCN1CCC(CC1)=CC1=CC=C(C=C1)F)C(=O)C1=CC=CC=C1 | InChI=1S/C22H23BrFNO.ClH/c23-21(22(26)19-4-2-1-3-5-19)12-15-25-13-10-18(11-14-25)16-17-6-8-20(24)9-7-17;/h1-9,16,21H,10-15H2;1H
